US07592358B2
IP 5d. (3S,4R)-4-trifluoromethylpiperidin-3,4-diol
A mixture of 1.50 g (5.45 mmol) of (3S,4R)-1-benzyl-4-trifluoromethylpiperidin-3,4-diol and 170 mg of Pd/C (10%) in 17 mL of MeOH was hydrogenated at RT and 3 bar hydrogen pressure for 5 hours. The catalyst was filtered off and the filtrate was evaporated down in vacuo. Yield: 910 mg (90% of theoretical); C6H10F3NO2 (M=185.144); calc.: molpeak (M+H)+: 186; found: molpeak (M+H)+: 186; Rf value: 0.35 (silica gel, EtOAc/MeOH/conc. aqueous ammonia 7:3:0.3).

reactant | (3S,4R)-1-benzyl-4-trifluoromethylpiperidin-3,4-diol | 5.45 mmol, 1.50 g | C(C1=CC=CC=C1)N1C[C@@H]([C@@](CC1)(O)C(F)(F)F)O | C13H16F3NO2
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 17 mL | CO | CH4O
catalyst | Pd/C | 170 mg | [Pd] | Pd
product | (3S,4R)-4-trifluoromethylpiperidin-3,4-diol | FC([C@@]1([C@H](CNCC1)O)O)(F)F | C6H10F3NO2
